### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/CliffordAlgebra): port SpinGroup

### PR DESCRIPTION
**Pull request by utensil**
In this PR, we define `lipschitzGroup`, `pinGroup` and `spinGroup`, and prove some basic lemmas.

Ported from leanprover-community/mathlib/pull/16040.

Co-authored-by: Jiale Miao <bm221@ic.ac.uk>
Co-authored-by: Eric Wieser <wieser.eric@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

This PR is a port of leanprover-community/mathlib#16040 .

- [x] Port all contents of leanprover-community/mathlib#16040
- [x] Prove `invertible_of_invertible_ι` missing from leanprover-community/mathlib#16040 (with @eric-wieser 's help)
  - [x] depends on: #9076 
- [x] Pass CI
- [x] Write a proper commit message for the PR, adding all co-authors and deps
- [x] Fix [naming issues](https://leanprover-community.github.io/contribute/naming.html)
- [x] Fix [style issues](https://leanprover-community.github.io/contribute/style.html)
- [x] Remove macro_rules
- [x] Minimize imports and deps
- [x] Add porting notes as PR comments
- [x] Rename `lipschitz` to `lipschitzGroup` and update doc, commit log etc.
- [x] Mark regressions from Lean 3 in this PR

This PR can be reviewed here or discussed on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.2316040.20Spin.20Group).

### CODE REVIEW

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 1]
```diff
@@ -73,127 +73,110 @@ def inv_of_inv_ι (m : M) [Invertible (ι Q m)] [Invertible (2 : R)] : Invertibl
...
 statement presumably being true only in finite dimensions.-/
 theorem mem_lipschitz_conjAct_le {x : (CliffordAlgebra Q)ˣ} [Invertible (2 : R)]
-    (hx : x ∈ lipschitz Q) : ConjAct.toConjAct x • (ι Q).range ≤ (ι Q).range :=
-  by
-  refine' @Subgroup.closure_induction'' _ _ _ _ _ hx _ _ _ _
-  · rintro x ⟨z, hz⟩ y ⟨a, ha⟩
-    simp only [SMul.smul, SetLike.mem_coe, LinearMap.mem_range, DistribMulAction.toLinearMap_apply,
-      ConjAct.ofConjAct_toConjAct] at ha
-    rcases ha with ⟨⟨b, hb⟩, ha1⟩
+    (hx : x ∈ lipschitz Q) : ConjAct.toConjAct x • LinearMap.range (ι Q) ≤ LinearMap.range (ι Q) := by
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean]: @_**Eric Wieser|310045** [said](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Field.20notation.20and.20.60CoeFun.60/near/313393152):
> Having dot notation work on bundled morphisms like this was often convenient in Lean 3; it would be a shame to lose it
@_**Yaël Dillies|387244** [said](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/dot.20notation.20with.20Multiplicative/near/400138163):
> This is the general issue with bundled morphisms not taking dot notation anymore. This is really annoying.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 2]
```diff
@@ -73,127 +73,110 @@ def inv_of_inv_ι (m : M) [Invertible (ι Q m)] [Invertible (2 : R)] : Invertibl
...
+  unfold lipschitz at hx
+  apply Subgroup.closure_induction'' hx
+  · rintro x ⟨a, ha⟩ y ⟨z, ⟨⟨b, hb⟩, hz⟩⟩
+    have := x.invertible
+    have : Invertible (ι Q a) := by rwa [ha]
+    have : Invertible (Q a) := inv_of_inv_ι a
+    rw [LinearMap.mem_range]
+    simp only [HSMul.hSMul, SMul.smul, DistribMulAction.toLinearMap_apply, ConjAct.ofConjAct_toConjAct,
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean]: Lean 4 requires the extra `HSMul.hSMul`

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 3]
```diff
@@ -73,127 +73,110 @@ def inv_of_inv_ι (m : M) [Invertible (ι Q m)] [Invertible (2 : R)] : Invertibl
...
-      by
-      convert this
-      ext1
-      congr <;> simp only [hz.symm, Subsingleton.helim (congr_arg Invertible hz.symm)]
-    letI := invertibleOfInvertibleι Q z
-    refine' ⟨(⅟ (Q z) * QuadraticForm.polar Q z b) • z - b, (ι_mul_ι_mul_inv_of_ι Q z b).symm⟩
-  · rintro x ⟨z, hz1⟩ y ⟨a, ⟨b, hb⟩, ha2⟩
-    simp only [ConjAct.toConjAct_inv, DistribMulAction.toLinearMap_apply, SMul.smul,
-      ConjAct.ofConjAct_inv, ConjAct.ofConjAct_toConjAct, inv_inv] at ha2
+    suffices ∃ y : M, ι Q y = ι Q a * ι Q b * ⅟ (ι Q a) by simp_all only [invOf_units]
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:74]: In Lean 3 it's fine to use `rw` but in Lean 4 I went through oceans to find that only `simp_all` works, not `simp` nor `simp_rw`.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 4]
```diff
@@ -73,127 +73,110 @@ def inv_of_inv_ι (m : M) [Invertible (ι Q m)] [Invertible (2 : R)] : Invertibl
...
-        simp only [SMul.smul, Units.mul_left_inj, Units.mul_right_inj, exists_exists_eq_and,
-          Submodule.mem_map, LinearMap.mem_range, DistribMulAction.toLinearMap_apply,
-          ConjAct.ofConjAct_toConjAct]
-        exact hy1
-      specialize hx1 hx2
-      rwa [hb] at hx1
+    suffices ∃ y : M, ι Q y = ⅟ (ι Q a) * ι Q b * ι Q a by simp_all only [invOf_units]
+    rw [invOf_ι_mul_ι_mul_ι Q a b]
+    use ((⅟ (Q a) * QuadraticForm.polar Q a b) • a - b)
+  · simp only [ConjAct.toConjAct_one, (one_smul _ (LinearMap.range (ι Q))), le_refl]
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:90]: I have no idea why I have to feed `one_smul` explicitly.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 5]
```diff
@@ -73,127 +73,110 @@ def inv_of_inv_ι (m : M) [Invertible (ι Q m)] [Invertible (2 : R)] : Invertibl
...
+    specialize hx1 hx2
+    rwa [hb] at hx1
 #align mem_lipschitz_conj_act_le mem_lipschitz_conjAct_le
 
+#print mem_lipschitz_conjAct_le
+
 /-- This is another version of `mem_lipschitz_conj_act_le` which uses `involute`.-/
 theorem mem_lipschitz_involute_le {x : (CliffordAlgebra Q)ˣ} [Invertible (2 : R)]
-    (hx : x ∈ lipschitz Q) (y : M) : involute ↑x * ι Q y * ↑x⁻¹ ∈ (ι Q).range :=
+    (hx : x ∈ lipschitz Q) (b : M) : involute ↑x * ι Q b * ↑x⁻¹ ∈ LinearMap.range (ι Q) :=
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean]: I got really confused by the naming, so I consitently use `a b : M` and 

```lean
x y z : CliffordAlgebra Q -- sometimes (CliffordAlgebra Q)ˣ
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 6]
```diff
@@ -73,127 +73,110 @@ def inv_of_inv_ι (m : M) [Invertible (ι Q m)] [Invertible (2 : R)] : Invertibl
...
-      ext1
-      congr <;> simp only [hz.symm, Subsingleton.helim (congr_arg Invertible hz.symm)]
-    letI := invertibleOfInvertibleι Q z
-    refine' ⟨(⅟ (Q z) * QuadraticForm.polar Q z b) • z - b, (ι_mul_ι_mul_inv_of_ι Q z b).symm⟩
-  · rintro x ⟨z, hz1⟩ y ⟨a, ⟨b, hb⟩, ha2⟩
-    simp only [ConjAct.toConjAct_inv, DistribMulAction.toLinearMap_apply, SMul.smul,
-      ConjAct.ofConjAct_inv, ConjAct.ofConjAct_toConjAct, inv_inv] at ha2
+    suffices ∃ y : M, ι Q y = ι Q a * ι Q b * ⅟ (ι Q a) by simp_all only [invOf_units]
+    rw [ι_mul_ι_mul_invOf_ι Q a b]
+    use ((⅟ (Q a) * QuadraticForm.polar Q a b) • a - b)
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:76]: I wonder how can I prove this without an explicit `use`, I have no way of knowing the closed form of that vector.

Maybe some lemmas should be added back to be near `ι_mul_ι_mul_invOf_ι` and alike to avoid them here.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 7]
```diff
@@ -73,127 +73,110 @@ def inv_of_inv_ι (m : M) [Invertible (ι Q m)] [Invertible (2 : R)] : Invertibl
...
+  · rintro x ⟨a, ha⟩ y ⟨z, ⟨⟨b, hb⟩, hz⟩⟩
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:77]: This goal is structurally similar to the previous one, I kept them as similar as possible, but I don't know how to golf them to avoid duplication.

**Comment by utensil** [comment]
!bench

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 8]
```diff
@@ -0,0 +1,470 @@
...
+
+section Pin
+
+open CliffordAlgebra MulAction
+
+open scoped Pointwise
+
+/-- `lipschitz` is the subgroup closure of all the invertible elements in the form of `ι Q m`
+where `ι` is the canonical linear map `M →ₗ[R] CliffordAlgebra Q`. -/
+def lipschitz (Q : QuadraticForm R M) :=
```
Comment (winstonyin) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:55]: Any reason why not `lipschitzGroup`?

**Comment by grunweg** [comment]
Drive-by comment: is this awaiting review? Then it would to label it as such, otherwise this may slip through the queue. :-)

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 9]
```diff
@@ -0,0 +1,474 @@
...
+
+namespace lipschitzGroup
+
+/-- If x is in `lipschitzGroup Q`, then `(ι Q).range` is closed under twisted conjugation.
+The reverse statement presumably being true only in finite dimensions.-/
+theorem mem_conjAct_le {x : (CliffordAlgebra Q)ˣ} (hx : x ∈ lipschitzGroup Q)
+    [Invertible (2 : R)] :
+    ConjAct.toConjAct x • LinearMap.range (ι Q) ≤ LinearMap.range (ι Q) := by
+  unfold lipschitzGroup at hx
+  apply Subgroup.closure_induction'' hx
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:68]: You should be able to use the `induction` tactic here and elsewhere

**Review by eric-wieser — COMMENTED** [review]
I'm afraid I had some pending comments from long ago that I forgot to submit.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 10]
```diff
@@ -0,0 +1,474 @@
...
+* `lipschitzGroup`: the Lipschitz group with a quadratic form.
+* `pinGroup`: the Pin group defined as the infimum of `lipschitzGroup` and `unitary`.
+* `spinGroup`: the Spin group defined as the infimum of `pinGroup` and `CliffordAlgebra.even`.
+
+## Implementation Notes
+
+Here are some discussion about the latent ambiguity of definition :
+https://mathoverflow.net/q/427881/172242 and https://mathoverflow.net/q/251288/172242
+
+The definition of the Lipschitz group `{𝑥 ∈ 𝐶𝑙(𝑉,𝑞) │ 𝑥 𝑖𝑠 𝑖𝑛𝑣𝑒𝑟𝑡𝑖𝑏𝑙𝑒 𝑎𝑛𝑑 𝑥𝑣𝑥⁻¹∈ 𝑉}` is given by:
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:28]: This use of unicode is cute, but we should just use LaTeX for the benefit of readers of the web documentation.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 11]
```diff
@@ -0,0 +1,474 @@
...
+• Fulton, W. and Harris, J., 2004. Representation theory. New York: Springer, p.chapter 20.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:29]: Can you add this to `references.bib`?

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 12]
```diff
@@ -0,0 +1,471 @@
...
+  exact exists_eq_right
+#align coe_mem_lipschitz_iff_mem lipschitzGroup.coe_mem_iff_mem
+
+end lipschitzGroup
+
+/-- `pinGroup Q` is defined as the infimum of `lipschitzGroup Q` and `unitary (CliffordAlgebra Q)`.
+See `mem_iff`. -/
+def pinGroup (Q : QuadraticForm R M) : Submonoid (CliffordAlgebra Q) :=
+  (lipschitzGroup Q).toSubmonoid.map (Units.coeHom <| CliffordAlgebra Q) ⊓ unitary _
+#align pin_group pinGroup
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:170]: This PR should not have any `#align`s; those are reserved for things that were merged to mathlib3!

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean (hunk 11 above)
Comment (utensil) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:29]: Just added it, but `[fulton2004][]` is not very informative for someone is not aware of the existence of

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 13]
```diff
@@ -0,0 +1,474 @@
...
+  Subgroup.closure ((↑) ⁻¹' Set.range (ι Q) : Set (CliffordAlgebra Q)ˣ)
+#align lipschitz lipschitzGroup
+
+namespace lipschitzGroup
+
+/-- If x is in `lipschitzGroup Q`, then `(ι Q).range` is closed under twisted conjugation.
+The reverse statement presumably being true only in finite dimensions.-/
+theorem mem_conjAct_le {x : (CliffordAlgebra Q)ˣ} (hx : x ∈ lipschitzGroup Q)
+    [Invertible (2 : R)] :
+    ConjAct.toConjAct x • LinearMap.range (ι Q) ≤ LinearMap.range (ι Q) := by
```
[the remark this answers is not in the document]
Comment (utensil) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:68]: Maybe just a shorter `conjAct_le_of_mem`?

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean (hunk 9 above)
Comment (utensil) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean]: Checked that proofs are now all changed to use `induction`. Thanks!

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean (hunk 10 above)
Comment (utensil) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean]: Done, but there are 2 issues:

1. the readability is reduced for source code readers
2. doc-gen4 still has issues for LaTeX in markdown, in this case, a valid `\{` has to be `\\{` for the `{` of the set to rendered correctly, similar LaTeX formulas are long broken in Mathlib 4 doc, [previous discussions](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/LaTeX.20problem.20in.20docstring) suggested that we should not fix the LaTeX formulas and should wait for the fix from doc-gen4 parser but it's been too long now, and I can't PR a broken LaTeX, so I have to fix it here, but it will be broken again once it's fixed on the parser end, either by doc-gen4 or verso.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean (hunk 12 above)
Comment (utensil) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:173]: Will remove all `#align`s.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 14]
```diff
@@ -0,0 +1,419 @@
...
+## Main definitions
+
+* `lipschitzGroup`: the Lipschitz group with a quadratic form.
+* `pinGroup`: the Pin group defined as the infimum of `lipschitzGroup` and `unitary`.
+* `spinGroup`: the Spin group defined as the infimum of `pinGroup` and `CliffordAlgebra.even`.
+
+## Implementation Notes
+
+The definition of the Lipschitz group
+$\\{ x \in \mathop{\mathcal{C}\ell} | x \text{ is invertible and } x v x^{-1} ∈ V \\}$ is given by:
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:26]: I'd prefer that we PR the "broken" $\LaTeX$, so that when doc-gen is eventually fixed it ends up less broken rather than more broken:
```suggestion
$\{ x \in \mathop{\mathcal{C}\ell} | x \text{ is invertible and } x v x^{-1} ∈ V \}$ is given by:
```

Comment (utensil) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:26]: I'm OK with either, but I'm not very optimistic about when it would be fixed.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 15]
```diff
@@ -0,0 +1,419 @@
...
+
+The definition of the Lipschitz group
+$\{ x \in \mathop{\mathcal{C}\ell} | x \text{ is invertible and } x v x^{-1} ∈ V \}$ is given by:
+
+* [fulton2004][], Chapter 20
+* https://en.wikipedia.org/wiki/Clifford_algebra#Lipschitz_group
+
+But they presumably form a group only in finite dimensions. So we define `lipschitzGroup` with
+closure of all the invertible elements in the form of `ι Q m`, and we show this definition is
+at least as large as the other definition (See `lipschitzGroup.mem_conjAct_le` and
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:33]:
```suggestion
at least as large as the other definition (See `lipschitzGroup. conjAct_smul_range_ι_le_of_mem` and
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 16]
```diff
@@ -0,0 +1,419 @@
...
+    ↑x ∈ pinGroup Q ↔ x ∈ lipschitzGroup Q ∧ ↑x ∈ unitary (CliffordAlgebra Q) := by
+  rw [mem_iff, lipschitzGroup.coe_mem_iff_mem]
+
+theorem units_mem_lipschitzGroup {x : (CliffordAlgebra Q)ˣ} (hx : ↑x ∈ pinGroup Q) :
+    x ∈ lipschitzGroup Q :=
+  (units_mem_iff.1 hx).1
+
+/-- If x is in `pinGroup Q`, then `(ι Q).range` is closed under twisted conjugation. The reverse
+statement presumably being true only in finite dimensions.-/
+theorem units_mem_conjAct_le {x : (CliffordAlgebra Q)ˣ} (hx : ↑x ∈ pinGroup Q)
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:197]:
```suggestion
theorem units_conjAct_smul_range_ι_le_of_mem {x : (CliffordAlgebra Q)ˣ} (hx : ↑x ∈ pinGroup Q)
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 17]
```diff
@@ -0,0 +1,419 @@
...
+    [Invertible (2 : R)] : ConjAct.toConjAct x • LinearMap.range (ι Q) ≤ LinearMap.range (ι Q) :=
+  lipschitzGroup.mem_conjAct_le (units_mem_lipschitzGroup hx)
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:199]:
```suggestion
  lipschitzGroup.conjAct_smul_range_ι_le_of_mem (units_mem_lipschitzGroup hx)
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 18]
```diff
@@ -0,0 +1,419 @@
...
+
+/-- This is another version of `units_mem_conjAct_le` which uses `involute`. -/
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:201]:
```suggestion
/-- This is another version of `units_conjAct_smul_range_ι_le_of_mem` which uses `involute`. -/
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 19]
```diff
@@ -0,0 +1,419 @@
...
+theorem mem_involute_eq {x : CliffordAlgebra Q} (hx : x ∈ spinGroup Q) : involute x = x :=
+  involute_eq_of_mem_even (mem_even hx)
+
+theorem units_involute_act_eq_conjAct {x : (CliffordAlgebra Q)ˣ} (hx : ↑x ∈ spinGroup Q) (y : M) :
+    involute (Q := Q) ↑x * ι Q y * ↑x⁻¹ = ConjAct.toConjAct x • (ι Q y) := by
+  rw [mem_involute_eq hx, @ConjAct.units_smul_def, @ConjAct.ofConjAct_toConjAct]
+
+/- If x is in `spinGroup Q`, then `(ι Q).range` is closed under twisted conjugation. The reverse
+statement presumably being true only in finite dimensions.-/
+theorem units_mem_conjAct_le {x : (CliffordAlgebra Q)ˣ} (hx : ↑x ∈ spinGroup Q)
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:331]:
```suggestion
theorem units_conjAct_smul_range_ι_le_of_mem {x : (CliffordAlgebra Q)ˣ} (hx : ↑x ∈ spinGroup Q)
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 20]
```diff
@@ -0,0 +1,419 @@
...
+    [Invertible (2 : R)] : ConjAct.toConjAct x • LinearMap.range (ι Q) ≤ LinearMap.range (ι Q) :=
+  lipschitzGroup.mem_conjAct_le (units_mem_lipschitzGroup hx)
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:333]:
```suggestion
  lipschitzGroup.conjAct_smul_range_ι_le_of_mem (units_mem_lipschitzGroup hx)
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 21]
```diff
@@ -0,0 +1,419 @@
...
+
+/- This is another version of `units_mem_conjAct_le` which uses `involute`.-/
```
Comment (utensil) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:335]:
```suggestion
/- This is another version of `units_conjAct_smul_range_ι_le_of_mem` which uses `involute`.-/
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (utensil) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:68]: @eric-wieser I've updated all references to `mem_conjAct_le` in the form of code suggestions, can you check if they all comply with the naming convention? Particularly `units_conjAct_smul_range_ι_le_of_mem`, and the inconsistent looking `units_mem_involute_act_le`.

**Comment by utensil** [comment]
Sorry, I made the same mistake again: use `git pull origin master --rebase=false` to merge without rebase, but during pushing with VSCode, it did the rebase again. Now it's fixed by `git reset --hard 230250ce7b5b1bfc211ce37f381549685553b7ef`, redo the merge and fix, then a forced push.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:68]: I think you can drop the `units_` components of the names, but otherwise those suggestions look fine; can you apply them?

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 22]
```diff
@@ -0,0 +1,419 @@
...
+theorem star_mul_self (x : spinGroup Q) : star x * x = 1 :=
+  Subtype.ext <| coe_star_mul_self x
+
+@[simp]
+theorem mul_star_self (x : spinGroup Q) : x * star x = 1 :=
+  Subtype.ext <| coe_mul_star_self x
+
+/-- `spinGroup Q` forms a group where the inverse is `star`. -/
+instance : Group (spinGroup Q) where
+  __ : Monoid _ := inferInstance
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:390]:
```suggestion
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 23]
```diff
@@ -0,0 +1,428 @@
...
+    x ∈ lipschitzGroup Q := by
+  simp only [Submonoid.mem_map, Subgroup.mem_toSubmonoid, Units.coeHom_apply, exists_prop]
+  norm_cast
+  exact exists_eq_right
+
+end lipschitzGroup
+
+/-- `pinGroup Q` is defined as the infimum of `lipschitzGroup Q` and `unitary (CliffordAlgebra Q)`.
+See `mem_iff`. -/
+def pinGroup (Q : QuadraticForm R M) : Submonoid (CliffordAlgebra Q) :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:176]: I wonder if this should be
```suggestion
def pinGroup (Q : QuadraticForm R M) : Subgroup (CliffordAlgebra Q)ˣ :=
```
(which requires quite a few changes later)

The benefit is that this then matches `lipschitzGroup`

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 24]
```diff
@@ -0,0 +1,419 @@
...
+  simp only [hy₃, hy₁, inv_mem_iff]
+
+/-- An element is in `pinGroup Q` if and only if `star x` is in `pinGroup Q`.
+See `star_mem` for only one direction. -/
+@[simp]
+theorem star_mem_iff {x : CliffordAlgebra Q} : star x ∈ pinGroup Q ↔ x ∈ pinGroup Q := by
+  refine' ⟨_, star_mem⟩
+  intro hx
+  convert star_mem hx
+  exact (star_star x).symm
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:247]: That a good thing to have in general, but won't help here, because there is no `StarSubmonoid` or `StarSubgroup`.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean [hunk 25]
```diff
@@ -0,0 +1,428 @@
...
+/-- `lipschitzGroup` is the subgroup closure of all the invertible elements in the form of `ι Q m`
+where `ι` is the canonical linear map `M →ₗ[R] CliffordAlgebra Q`. -/
+def lipschitzGroup (Q : QuadraticForm R M) : Subgroup (CliffordAlgebra Q)ˣ :=
+  Subgroup.closure ((↑) ⁻¹' Set.range (ι Q) : Set (CliffordAlgebra Q)ˣ)
+
+namespace lipschitzGroup
+
+/-- If x is in `lipschitzGroup Q`, then `(ι Q).range` is closed under twisted conjugation.
+The reverse statement presumably is true only in finite dimensions.-/
+theorem conjAct_smul_range_ι {x : (CliffordAlgebra Q)ˣ} (hx : x ∈ lipschitzGroup Q)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:66]: Can you split a `conjAct_ι_mem_range_ι : ConjAct.toConjAct x • ι Q m ∈ LinearMap.range (ι Q)` statement out of this one, that matches `involute_act_ι_mem_range_ι`? You can use it to simplify the proof of this one.

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean (hunk 24 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean:236]: Ah right

File: Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean (hunk 25 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/CliffordAlgebra/SpinGroup.lean]: I've extracted this lemma.

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 26]
```diff
@@ -240,6 +240,9 @@ theorem smul_mem_pointwise_smul (m : M) (a : α) (S : Submodule R M) : m ∈ S 
   (Set.smul_mem_smul_set : _ → _ ∈ a • (S : Set M))
 #align submodule.smul_mem_pointwise_smul Submodule.smul_mem_pointwise_smul
 
+theorem pointwise_smul_mono (a : α) : Monotone (fun S : Submodule R M => a • S) :=
+  fun _ _ => map_mono
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:244]: I've split this to #11809

**Comment by jcommelin** [comment]
This PR looks mostly fine, but there are still some places where it needs some work. Are you planning to continue working on this PR? Would you like some help from others, or do you want to hand over completely? (In the latter case, please label it with `please-adopt`.)

**Comment by utensil** [comment]
For discussions, see [zulip](https://leanprover.zulipchat.com/#narrow/stream/263328-triage/topic/PR.20!4.239111.3A.20feat.28LinearAlgebra.2FCliffordAlgebra.29.3A.20port.20Spi.2E.2E.2E). The only work left in this PR is to use the `Subgroup` approach instead of the `Submonoid` approach. @eric-wieser suggested this, but later he commented that "it's not so clear a win as I'd hoped, and want to write down why", so I didn't move forward with the suggestion.

My plan was to work on follow-up PRs built on this PR, but got distracted by other work. I think this PR is ready to merge as long as there is no objection to the `Submonoid` approach. I can also work out the `Subgroup` approach if it's clearly preferred.

**Comment by YaelDillies** [comment]
My personal opinion is that this PR has been in an acceptable state for a(n unacceptably) long time, and that the `Subgroup` vs `Submonoid` design choice is not something that should prevent future work from happening. I agree that this can be figured out in a later PR. So...

maintainer merge

**Comment by riccardobrasca** [comment]
@eric-wieser can you have a final look?

**Comment by semorrison** [comment]
bors merge

**Comment by eric-wieser** [comment]
> My personal opinion is that this PR has been in an acceptable state for a(n unacceptably) long time, and that the `Subgroup` vs `Submonoid` design choice is not something that should prevent future work from happening. I agree that this can be figured out in a later PR. So...


I agree with this, but didn't find the time to come back and say it. Sorry for letting this drag on so long @utensil!

**Comment by eric-wieser** [comment]
bors merge

**Comment by bryangingechen** [comment]
Weird, looks like one of the runners went offline before the build finished: https://github.com/leanprover-community/mathlib4/actions/runs/10460865400

Let's try again.
bors r+

**Comment by bryangingechen** [comment]
One of the runners ran out of space. Re-running
bors r+
